US04202899
(a) 4-[2-(2-Cyano-1-methylethylidene)hydrazino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester
249 g of 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]-pyridine-5-carboxylic acid, ethyl ester (1 mol) and 82 g of 3-aminocrotononitrile (1 mol) are heated together in 1.5 liters of butyl alcohol with stirring for 24 hours. The solvent is removed in vacuo and the residual 4-[2-(2-cyano-1-methylethylidene)hydrazino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester is recrystallized from alcohol, yield 309 g (80%); m.p. 190°-191°.

reactant | 1-ethyl-4-hydrazino-1H-pyrazolo[3,4-b]-pyridine-5-carboxylic acid, ethyl ester | 1 mol, 249 g | C(C)N1N=CC=2C1=NC=C(C2NN)C(=O)OCC | C11H15N5O2
reactant | 3-aminocrotononitrile | 1 mol, 82 g | N\C(=C/C#N)\C | C4H6N2
solvent | butyl alcohol | 1.5 liters | C(CCC)O | C4H10O
product | 4-[2-(2-Cyano-1-methylethylidene)hydrazino]-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | C(#N)CC(C)=NNC1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C15H18N6O2
